US07667041B2
Synthesis of (E)-1-(3-fluorobenzyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one
An acetic acid (3 mL) solution of (E)-5-(3-fluorobenzylamino)-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid ethyl ester (81 mg) was heated to reflux overnight. After cooling the reaction solution to 0° C., it was neutralized with 1N sodium hydroxide solution, and then a saturated sodium bicarbonate water and ethyl acetate were added to the reaction solution, and the organic layer was partitioned. After the obtained organic layer was washed with a saturated saline solution, it was dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography (Carrier: Chromatorex™ NH, elution solvent:heptane-ethyl acetate=1:5→ethyl acetate), and 21 mg of the title compound was obtained. The physical properties of the compound are as follows.

reactant | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
reactant | (E)-5-(3-fluorobenzylamino)-2-(3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene)valeric acid ethyl ester | 81 mg | C(C)OC(/C(/CCCNCC1=CC(=CC=C1)F)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)OC)=O | C26H30FN3O3
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-1-(3-fluorobenzyl)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)benzylidene]piperidin-2-one | 21 mg | FC=1C=C(CN2C(/C(/CCC2)=C/C2=CC(=C(C=C2)N2C=NC(=C2)C)OC)=O)C=CC1 | C24H24FN3O2
